US06140351
To a solution of N-(4-chlorophenyl)-2-[((5-hydroxymethyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide (0.085 g, 0.19 mmol) in DMF (6 mL) was added pyridinium dichromate (PDC) (0.25 g, 0.65 mmol) at ambient temperature. After stirring for 20 hours, water was added and the reaction mixture was extracted with methylene chloride. The combined extracts were dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash chromatography on silica to afford 0.035 g of N-(4-chlorophenyl)-2-[((5-formyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide, as a pale yellow solid; NMR (DMSO-d6) 11.3 (s, 1), 10.8(s, 1), 9.9 (s, 1),8.3 (d, 1), 8.1 (s, 1), 7.9 (s, 1), 7.7 (d, 2), 7.6 (d, 1), 7.4 (d, 2) ppm.

reactant | N-(4-chlorophenyl)-2-[((5-hydroxymethyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.19 mmol, 0.085 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)CO)=O | C19H13Cl3N2O3S
reactant | pyridinium dichromate | 0.65 mmol, 0.25 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-2-[((5-formyl-3-chlorothiophen-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.035 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C=1SC(=CC1Cl)C=O)=O | C19H11Cl3N2O3S
